US09359375B2
To the mixture of (R)-(−)-2-aminobutanamide hydrochloride (1.00 g, 7.2 mmol) and 2,6-dichloro-5-fluoro-3-pyridinecarbonitrile (0.92 g, 4.8 mmol) in 40 mL NMP added DIEA (2.5 mL, 14.4 mmol). The mixture was then sent to 100° C. for stirring for 1 h. The mixture was cooled to RT, and to it was poured 300 mL EtOAc. The mixture was washed with brine four times. The organic phase was dried, concentrated and purified using silica flash column (70% EtOAc-30% DCM) to isolate (R)-2-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)butanamide (1.21 g, 98% yield).

reactant | (R)-(−)-2-aminobutanamide hydrochloride | 7.2 mmol, 1.00 g | Cl.N[C@@H](C(=O)N)CC
reactant | 2,6-dichloro-5-fluoro-3-pyridinecarbonitrile | 4.8 mmol, 0.92 g | ClC1=NC(=C(C=C1C#N)F)Cl | C6HCl2FN2
reactant | DIEA | 14.4 mmol, 2.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | NMP | 40 mL | CN1CCCC1=O | C5H9NO
product | (R)-2-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)butanamide | 1.21 g, 98% yield | ClC1=C(C=C(C(=N1)N[C@@H](C(=O)N)CC)F)C#N | C10H10ClFN4O
